US07067517B2
Methyl-phenyl-carbamic acid 4-[(2-dimethylamino-ethyl)-methyl-carbamoyl]-phenyl ester
The title product was prepared from N,N,N′-trimethylethylendiamine and 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester, preparative HPLC (method C) (2%, colourless oill). HPLC-MS m/z=356.2 (M+1), Rt: 2.17 min.

reactant | N,N,N′-trimethylethylendiamine | CN(CCNC)C | C5H14N2
reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
product | Methyl-phenyl-carbamic acid 4-[(2-dimethylamino-ethyl)-methyl-carbamoyl]-phenyl ester | CN(CCN(C(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)C)C | C20H25N3O3
